US08211904B2
Step 2: methyl 3-(cyclopropylmethyl)benzoate
To a solution of methyl 3-allylbenzoate (8.39 g, 47.6 mmol) in dichloroethane (100 mL) was added iodochloromethane (26.9 mL, 152 mmol). The solution was cooled to 0° C. and diethyl zinc (1.0 M in heptanes, 76.2 mL, 76.2 mmol) was added. The cooling bath was removed and the reaction was stirred at rt for 30 min. The reaction mixture was quenched with 1N HCl, extracted with methylene chloride (three times), dried with MgSO4 and concentrate under vacuum to afford the desired product.

reactant | methyl 3-allylbenzoate | 47.6 mmol, 8.39 g | C(C=C)C=1C=C(C(=O)OC)C=CC1 | C11H12O2
reactant | iodochloromethane | 152 mmol, 26.9 mL | ICCl | CH2ClI
reactant | diethyl zinc | 76.2 mmol, 1.0 M, 76.2 mL | C(C)[Zn]CC
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | methyl 3-(cyclopropylmethyl)benzoate | C1(CC1)CC=1C=C(C(=O)OC)C=CC1 | C12H14O2
